US09255110B2
To a solution of 4-methoxy-3-nitrobenzaldehyde (0.6 g) in tetrahydrofuran (10 mL) was added sodium hydride (50% suspension in mineral oil, 0.5 g) followed by methyltriphenylphosphonium bromide (1.8 g) and the resulting mixture was heated at reflux for 1 hour. The reaction mixture was cooled, diluted with water, extracted with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (hexane/EtOAc, 90/10) to give 150 mg of 1-methoxy-2-nitro-4-vinyl-benzene.

reactant | 4-methoxy-3-nitrobenzaldehyde | 0.6 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 1.8 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | 1-methoxy-2-nitro-4-vinyl-benzene | 150 mg | COC1=C(C=C(C=C1)C=C)[N+](=O)[O-] | C9H9NO3
